US07838674B2
14.b: 2-(4-Methoxy-phenyl)-6,7-dihydro-5H-quinazolin-8-one
8-Ethoxy-2-(4-methoxy-phenyl)-5,6-dihydro-quinazoline (860 mg; 3.05 mmol) is dissolved in acetic acid/water (16 ml/1.6 ml) and refluxed for 15 minutes. Evaporation to dryness delivers the title compound as yellow crystals. 1H-NMR (400 MHz; DMSO-d6): 9.04 (s, 1H); 8.34 (d, 2H); 7.10 (d, 2H); 3.86 (s, 3H); 2.99 (t, 2H); 2.79 (t, 2H); 2.15 (m, 2H). MS (m/z) ES+: 255 (MH+).

reactant | 8-Ethoxy-2-(4-methoxy-phenyl)-5,6-dihydro-quinazoline | 3.05 mmol, 860 mg | C(C)OC1=CCCC=2C=NC(=NC12)C1=CC=C(C=C1)OC | C17H18N2O2
solvent | acetic acid water | 16 ml | C(C)(=O)O.O
product | 2-(4-Methoxy-phenyl)-6,7-dihydro-5H-quinazolin-8-one | COC1=CC=C(C=C1)C1=NC=2C(CCCC2C=N1)=O | C15H14N2O2
